US05741811
Synthesis of 5-formyl-2,2': 5', 3"-terthiophene (NSC code #660643)
In a two-necked round bottomed flask was added 5-dimethoxymethyl-5'-tributyl-stannyl-2,2'-bithiophene (5.6 g), bis(triphenylphosphine)palladium (II) chloride (0.32 g), 3-bromo-thiophene (1.5 g) (Aldrich Chem. Co., Milwaukee, Wis.) and tetrahydrofuran (20 ml). The reaction mixture was refluxed for 16 hours. To the reaction mixture was then added hydrochloric acid (1N, 3 ml) and was further refluxed for 3 hours. Saturated sodium bicarbonate aqueous solution was added to neutrality and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was separated by silica gel chromatography, eluted with n-hexane/ethyl acetate (9:1 →1:1 gradient) to give brownish solid product (0.7 g, 40%), melting point 155°-157° C.

reactant | 3-bromo-thiophene | 1.5 g | BrC1=CSC=C1 | C4H3BrS
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.32 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-formyl-2,2': 5', 3"-terthiophene | 0.7 g, 40% | C(=O)C1=CC=C(S1)C=1SC(=CC1)C1=CSC=C1 | C13H8OS3
